US08664241B2
To a solution of N1-(3-(4-amino-5-nitropyridin-3-yl)-5-fluorophenyl)-N2,N2-dimethylethane-1,2-diamine (LXXVII) (2.1 g, 6.58 mmol) in MeOH (40 mL) was added 10% Pd/C (300 mg, 15% by wt). The solution was purged with hydrogen and stirred for 4 h at room temperature under hydrogen. The suspension was filtered through Celite® and concentrated under vacuum to produce 5-(3-(2-(dimethylamino)ethylamino)-5-fluorophenyl)pyridine-3,4-diamine (LXXVIII) as a brown solid (1.90 g, 6.57 mmol, 99.8% yield). 1H NMR (DMSO-d6, 500 MHz) δ ppm 2.20 (s, 6H), 2.46 (t, J=7 Hz, 2H), 3.12 (q, J=6 Hz, 2H), 4.79 (s, 2H), 5.21 (s, 2H), 5.91 (t, J=5 Hz, 1H), 6.28 (dd, J=9 Hz, J=1 Hz, 1H), 6.36 (t, J=2 Hz, 1H), 6.37-6.42 (m, 1H), 7.46 (s, 1H), 7.64 (s, 1H); ESIMS found C15H20FN5 m/z 290.1 (M+H).

reactant | N1-(3-(4-amino-5-nitropyridin-3-yl)-5-fluorophenyl)-N2,N2-dimethylethane-1,2-diamine | 6.58 mmol, 2.1 g | NC1=C(C=NC=C1[N+](=O)[O-])C=1C=C(C=C(C1)F)NCCN(C)C | C15H18FN5O2
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 5-(3-(2-(dimethylamino)ethylamino)-5-fluorophenyl)pyridine-3,4-diamine | 6.57 mmol, 1.90 g, 99.8% yield | CN(CCNC=1C=C(C=C(C1)F)C=1C(=C(C=NC1)N)N)C | C15H20FN5
